US08138197B2
6-(1-Methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride
4 N hydrogen chloride/dioxane solution was added to tert-butyl 6-(1-methyl-1H-pyrazol-4-yl)-4-oxo-spiro[chroman-2,4′-piperidine]-1′-carboxylate (1.0 g), and stirred overnight at room temperature. Ether was added to the reaction liquid, the solid was taken out through filtration, washed with ether, and dried under reduced pressure to obtain the intended product as a white solid.

reactant | hydrogen chloride dioxane | 4 N | Cl.O1CCOCC1
reactant | tert-butyl 6-(1-methyl-1H-pyrazol-4-yl)-4-oxo-spiro[chroman-2,4′-piperidine]-1′-carboxylate | 1.0 g | CN1N=CC(=C1)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C22H27N3O4
solvent | Ether | CCOCC | C4H10O
product | 6-(1-Methyl-1H-pyrazol-4-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | Cl.CN1N=CC(=C1)C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O | InChI=1S/C17H19N3O2.ClH/c1-20-11-13(10-19-20)12-2-3-16-14(8-12)15(21)9-17(22-16)4-6-18-7-5-17;/h2-3,8,10-11,18H,4-7,9H2,1H3;1H
